US05436359
1-Acetoxy-6-(10-acetoxydecyl)-2,3-dimethoxy-4-hydroxy-5-methylbenzene
1-Acetoxy-6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylbenzene (0.483 g) was dissolved in tetrahydrofuran (5 ml), and tetrabutylammonium fluoride trihydrate (0.5 g) was added. The mixture was stirred at room temperature for 30 minutes. After concentration under reduced pressure, the residue was subjected to column chromatography on silica gel and eluted with hexane/ethyl acetate (7:3) to obtain the desired compound (0.24 g).

reactant | 1-Acetoxy-6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylbenzene | 0.483 g | C(C)(=O)OC1=C(C(=C(C(=C1CCCCCCCCCCOC(C)=O)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC)OC | C39H54O7Si
reactant | tetrabutylammonium fluoride trihydrate | 0.5 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-Acetoxy-6-(10-acetoxydecyl)-2,3-dimethoxy-4-hydroxy-5-methylbenzene | 0.24 g | C(C)(=O)OC1=C(C(=C(C(=C1CCCCCCCCCCOC(C)=O)C)O)OC)OC | C23H36O7
